US04859693
Part A. A solution of 4-bromotoluene (53.0 g, 0.31 mole) in tetrahydrofuran (400 mL) was stirred at -75° and treated dropwise with n-butyllithium (1.6 M in hexane; 194 mL, 0.31 mole). After stirring for an additional 20 minutes, (S)-ethyl lactate (11.8 g, 0.1 mole) was added dropwise as a solution in tetrahydrofuran (20 mL). The reaction was stirred for three hours, during which time the temperature was allowed to rise to room temperature. Saturated aqueous ammonium acetate was added, after which the reaction mixture was diluted with ether, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure. (S)-1,1-bis(4-methyl-phenyl)-1,2-propanediol (27 g) was isolated as a pale yellow solid, and was used without further purification. NMR(CDCl3) 7.44(2H,d,J=8 Hz) 7.28(2H,d,J=8 Hz) 7.13(2H,d,J=8 Hz) 7.06(2H,d,J=8 Hz) 4.74(1H,q,J=6 Hz) 2.97(1H,broad) 2.29(6H,2s) 1.90(1H,braod s) 1.10(3H,d,J=6 Hz).

reactant | 4-bromotoluene | 0.31 mole, 53.0 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | n-butyllithium | 0.31 mole, 1.6 M, 194 mL | C(CCC)[Li]
reactant | (S)-ethyl lactate | 0.1 mole, 11.8 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (S)-1,1-bis(4-methyl-phenyl)-1,2-propanediol | 27 g | CC1=CC=C(C=C1)C([C@H](C)O)(O)C1=CC=C(C=C1)C | C17H20O2
